US08252798B2
8-(2-Chloro-phenyl)-6-(4-methyl-piperazin-1-yl)-9-(tetrahydro-pyran-4-ylmethyl)-9H-purine hydrochloride salt
Displace 6-Chloro-8-(2-chloro-phenyl)-9-(tetrahydro-pyran-4-ylmethyl)-9H-purine with N-methylpiperazine and prepare hydrochloride salt using the same procedure as example 1 to give the title compound. MS (m/z): 427 (M+1)

reactant | 6-Chloro-8-(2-chloro-phenyl)-9-(tetrahydro-pyran-4-ylmethyl)-9H-purine | ClC1=C2N=C(N(C2=NC=N1)CC1CCOCC1)C1=C(C=CC=C1)Cl | C17H16Cl2N4O
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 8-(2-Chloro-phenyl)-6-(4-methyl-piperazin-1-yl)-9-(tetrahydro-pyran-4-ylmethyl)-9H-purine hydrochloride salt | Cl.ClC1=C(C=CC=C1)C=1N(C2=NC=NC(=C2N1)N1CCN(CC1)C)CC1CCOCC1 | InChI=1S/C22H27ClN6O.ClH/c1-27-8-10-28(11-9-27)21-19-22(25-15-24-21)29(14-16-6-12-30-13-7-16)20(26-19)17-4-2-3-5-18(17)23;/h2-5,15-16H,6-14H2,1H3;1H
